US08685974B2
To a solution of 4-bromo-2-aminopyridine (173 mmol) and pyridine (347 mol) in 250 mL dichloromethane was added dropwise 2-methoxyacetyl chloride (208 mmol). The reaction mixture was stirred at room temperature for 3 h. Water was added and the reaction mixture was extracted with dichloromethane. The combined organic layers were washed with brine, dried over Na2SO4 and concentrated. The residue was washed with hexane to afford 35.0 g of N-(4-bromopyridin-2-yl)-2-methoxyacetamide (82% yield).

reactant | 4-bromo-2-aminopyridine | 173 mmol | BrC1=CC(=NC=C1)N | C5H5BrN2
reactant | pyridine | 347 mol | N1=CC=CC=C1 | C5H5N
reactant | 2-methoxyacetyl chloride | 208 mmol | COCC(=O)Cl | C3H5ClO2
reactant | Water | O | H2O
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
product | N-(4-bromopyridin-2-yl)-2-methoxyacetamide | 35.0 g, 82% yield | BrC1=CC(=NC=C1)NC(COC)=O | C8H9BrN2O2
